US04967013
The reactions are carried out in a manner similar to Examples 1 to 19. However, water is added but no methanol. The starting material and reaction product and the blanketing stream of nitrogen are passed downward over the fixed-bed catalyst by the co-current method. With the aid of this downward-flow procedure, it is also possible to convert liquid phases. At 200° C., for example, the water will be in the form of steam but p-methoxybenzaldehyde (boiling point 248° C.) will still be substantially in the form of a liquid. In this case too, the desired p-hydroxybenzaldehyde is obtained.

reactant | methanol | CO | CH4O
reactant | p-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
solvent | water | O | H2O
product | p-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
